US07338959B2
5-{4-[(2-Isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-2-methyl-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (60 mg, 0.18 mmol) and 5-amino-2-methyl-benzenesulfonamide (34 mg, 0.18 mmol) as a white solid (42 mg, 45%). 1H NMR (300 MHz, d6-DMSO) δ 9.85 (s, 1H), 8.67 (s, 1H), 8.51 (s, 1H), 7.87 (d, J=6.3 Hz, 1H), 7.67 (d, J=8.1 Hz, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.37 (s, 1H), 7.18-7.27 (m, 3H), 5.73 (d, J=6.0 Hz, 1H), 4.11 (m, 1H), 3.68 (s, 3H), 3.48 (s, 3H), 1.32 (d, J=6.3 Hz 6H) ppm. MS (ESI) m/z=481 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.18 mmol, 60 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.18 mmol, 34 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-{4-[(2-Isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-2-methyl-benzenesulfonamide hydrochloride | Cl.C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=CC(=C(C2)S(=O)(=O)N)C)C | InChI=1S/C23H28N8O2S.ClH/c1-14(2)26-23-28-18-13-17(8-9-19(18)31(23)5)30(4)21-10-11-25-22(29-21)27-16-7-6-15(3)20(12-16)34(24,32)33;/h6-14H,1-5H3,(H,26,28)(H2,24,32,33)(H,25,27,29);1H
